US08563717B2
Intermediate 31: Phenylmethyl 2-{3-[6-amino-2-(butyloxy)-8-(methyloxy)-9H-purin-9-yl]propyl}-1-piperidinecarboxylate
2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate (1.834 g, 5.22 mmol) was heated at 60° C. with potassium carbonate (2.89 g, 20.88 mmol) in DMF (23 ml) for 1 hour. Phenylmethyl 2-(3-bromopropyl)-1-piperidinecarboxylate (2.131 g, 6.26 mmol) was added and heating continued at 50° C. overnight (20 hours). The reaction mixture was partitioned between water (250 mL) and ethyl acetate (150 mL). The aqueous was further extracted with ethyl acetate (100 ml). The combined organic layers were washed with brine (100 ml) and passed through a hydrophobic frit to dry, then stripped to dryness (rotary evaporator) to give an orange liquid. The material was loaded onto 2×70 g aminopropyl cartridge and eluted on the Flashmaster system in gradient of 0-100% ethylacetate in cyclohexane over 40 mins. Appropriate product fractions were combined and evaporated in vacuo to give the title compound as a clear oil (1.16 g).

reactant | 2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate | 5.22 mmol, 1.834 g | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 20.88 mmol, 2.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | Phenylmethyl 2-(3-bromopropyl)-1-piperidinecarboxylate | 6.26 mmol, 2.131 g | BrCCCC1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C16H22BrNO2
solvent | DMF | 23 ml | CN(C)C=O | C3H7NO
product | Phenylmethyl 2-{3-[6-amino-2-(butyloxy)-8-(methyloxy)-9H-purin-9-yl]propyl}-1-piperidinecarboxylate | 1.16 g | NC1=C2N=C(N(C2=NC(=N1)OCCCC)CCCC1N(CCCC1)C(=O)OCC1=CC=CC=C1)OC | C26H36N6O4
